US08466282B2
Methyl 2-(acetylamino)-7-methoxy-3-oxoheptanoate
Methyl 2-(hydroxyimino)-7-methoxy-3-oxoheptanoate (5.70 g) and palladium-carbon (900 mg) were suspended in acetic acid (60 ml)-acetic anhydride (25 ml) and the mixture was stirred under a hydrogen atmosphere (1 atom) at room temperature for 14 hr. The palladium catalyst was filtered off, and the filtrate was concentrated under reduced pressure to give the object product (5.48 g).

reactant | Methyl 2-(hydroxyimino)-7-methoxy-3-oxoheptanoate | 5.70 g | ON=C(C(=O)OC)C(CCCCOC)=O | C9H15NO5
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 900 mg | [C].[Pd]
product | Methyl 2-(acetylamino)-7-methoxy-3-oxoheptanoate | 5.48 g | C(C)(=O)NC(C(=O)OC)C(CCCCOC)=O | C11H19NO5
